### PR TITLE
Updates for dataLang cutsets semantics change

### PR DESCRIPTION
**Pull request by tanyongkiam**

### CODE REVIEW

**Comment by tanyongkiam** [comment]
marking as test failing, testing locally.

File: compiler/backend/proofs/bvi_to_dataProofScript.sml [hunk 1]
```diff
@@ -690,8 +690,73 @@ Proof
...
+        \\ rpt (rename1 `data_to_bvi_ref rr = _` \\ Cases_on `rr` \\ gvs[]))
+  \\ gvs[dataSemTheory.do_app_def,dataSemTheory.do_app_aux_def,do_space_def,
+         dataLangTheory.op_space_reset_def,data_spaceTheory.op_space_req_def,
+         dataSemTheory.do_stack_def]
+QED
+
 fun note_tac s g = (print ("compile_correct: " ^ s ^ "\n"); ALL_TAC g);
 
+Theorem existsnot[simp]:
+  $? $~
```
Comment (myreen) [inline compiler/backend/proofs/bvi_to_dataProofScript.sml]: This is a peculiar simp!

File: compiler/backend/proofs/data_to_word_assignProofScript.sml [hunk 2]
```diff
@@ -3180,271 +3434,524 @@ Proof
...
+        \\ simp [domain_mk_wf, domain_inter])
+  \\ simp [domain_lookup, lookup_adjust_set, AllCaseEqs()]
+  \\ rw [] \\ gvs [domain_lookup]
+  \\ qpat_x_assum ‘lookup _ x.locals = SOME _’ mp_tac
+  \\ qpat_x_assum ‘domain x.locals = _’ mp_tac
+  \\ qpat_x_assum ‘lookup _ kept_names ≠ _’ mp_tac
+  \\ rpt (pop_assum kall_tac)
+  \\ simp [domain_lookup, EXTENSION, IN_INTER]
+  \\ metis_tac [oneTheory.one]
+       )
```
Comment (myreen) [inline compiler/backend/proofs/data_to_word_assignProofScript.sml]: Indentation here is a bit off

File: compiler/backend/proofs/data_to_word_assignProofScript.sml [hunk 3]
```diff
@@ -3180,271 +3434,524 @@ Proof
...
+        \\ simp [domain_mk_wf, domain_inter])
+  \\ simp [domain_lookup, lookup_adjust_set, AllCaseEqs()]
+  \\ rw [] \\ gvs [domain_lookup]
+  \\ qpat_x_assum ‘lookup _ x.locals = SOME _’ mp_tac
+  \\ qpat_x_assum ‘domain x.locals = _’ mp_tac
+  \\ qpat_x_assum ‘lookup _ kept_names ≠ _’ mp_tac
+  \\ rpt (pop_assum kall_tac)
+  \\ simp [domain_lookup, EXTENSION, IN_INTER]
+  \\ metis_tac [oneTheory.one]
+       ))
```
Comment (myreen) [inline compiler/backend/proofs/data_to_word_assignProofScript.sml]: Same here

File: compiler/backend/proofs/data_to_word_assignProofScript.sml [hunk 4]
```diff
@@ -3180,271 +3434,524 @@ Proof
...
```
Comment (myreen) [inline compiler/backend/proofs/data_to_word_assignProofScript.sml]: And again

File: compiler/backend/proofs/data_to_word_assignProofScript.sml [hunk 5]
```diff
@@ -13872,251 +15810,278 @@ Proof
...
+       (assume_tac o REWRITE_RULE [markerTheory.Abbrev_def])
+  \\ fs [shift_lsl,GSYM word_add_n2w,WORD_LEFT_ADD_DISTRIB])
+  >- (
+  fs [] \\ CCONTR_TAC \\ fs [DROP_NIL]
+  \\ gvs []
+  \\ fs [markerTheory.Abbrev_def]
+  \\ imp_res_tac get_vars_IMP_LENGTH \\ gvs [])))
 QED
 
+
```
Comment (myreen) [inline compiler/backend/proofs/data_to_word_assignProofScript.sml]: What's with all this white space?

**Review by myreen — CHANGES_REQUESTED** [review]
This mostly looks good. I've left a few comments that ought to be addressed. The most significant one is the strange simp that's added in bvi_to_dataProof.

File: compiler/backend/proofs/bvi_to_dataProofScript.sml (hunk 1 above)
Comment (tanyongkiam) [reply compiler/backend/proofs/bvi_to_dataProofScript.sml]: deleted (and I think this was human-generated by me!)

**Review by myreen — APPROVED** [review]

**Comment by tanyongkiam** [comment]
tested locally.
